US09358231B2
C. tert-butyl 5-((2-methyl-5-(methylcarbamoyl)phenylamino)methyl)pyrazin-2-ylcarbamate
To a solution of 3-((5-(tert-butoxycarbonylamino)pyrazin-2-yl)methylamino)-4-methylbenzoic acid (30 mg, 0.08 mmol) in DMF (1 mL) were added HATU (95 mg, 0.25 mmol), DIEA (74 L, 0.42 mmol) and methylamine hydrochloride (9 mg, 0.13 mmol). The reaction mixture was stirred for overnight at room temperature after which, it was partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product (29 mg, 93% yield) was used without further purification. MS m/z: 372 [M+1].

reactant | 3-((5-(tert-butoxycarbonylamino)pyrazin-2-yl)methylamino)-4-methylbenzoic acid | 0.08 mmol, 30 mg | C(C)(C)(C)OC(=O)NC=1N=CC(=NC1)CNC=1C=C(C(=O)O)C=CC1C | C18H22N4O4
reactant | HATU | 0.25 mmol, 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.42 mmol, 74 L | CCN(C(C)C)C(C)C | C8H19N
reactant | methylamine hydrochloride | 0.13 mmol, 9 mg | Cl.CN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-((2-methyl-5-(methylcarbamoyl)phenylamino)methyl)pyrazin-2-ylcarbamate | 29 mg, 93% yield | CC1=C(C=C(C=C1)C(NC)=O)NCC=1N=CC(=NC1)NC(OC(C)(C)C)=O | C19H25N5O3
